US07619092B2
In 300 ml of ethanol were added 30 g of 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4,4-dimethoxypiperidine and 3.0 g of 10% palladium-carbon, and the mixture was stirred under hydrogen atmosphere at room temperature for 3 hours. From the reaction mixture was removed insoluble matters by filtration, and the solvent was removed by distillation under reduced pressure. To the residue was added 300 ml of ethyl acetate. Under ice-cooling 20 ml of 4M hydrochloric acid-ethyl acetate solution was slowly added dropwise. The crystals were collected by filtration and washed with ethyl acetate. After drying, the crystals were added to a mixture of dichloromethane—an aqueous sodium carbonate solution, and the mixture was stirred. After the organic layer was separated, the aqueous layer was further extracted with dichloromethane. The organic layers were combined and dried over sodium sulfate, the solvent was removed by distillation under reduced pressure, to give 16.7 g of 2-(4-fluoro-2-methylphenyl)-4,4-dimethoxypiperidine as shown in Table 125 below.

reactant | 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4,4-dimethoxypiperidine | 30 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(CC1)(OC)OC)C1=C(C=C(C=C1)F)C | C22H26FNO4
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 3.0 g | [C].[Pd]
product | 2-(4-fluoro-2-methylphenyl)-4,4-dimethoxypiperidine | 16.7 g | FC1=CC(=C(C=C1)C1NCCC(C1)(OC)OC)C | C14H20FNO2
